* Z:\mnt\design.r\spice\examples\1441.asc
V1 +V 0 3.3
XU1 OUT 0 N002 N001 +V LTC1441
C1 OUT N002 .39p Rser=5K Lser=60 Cpar=3.9p
R1 N002 0 470K
R2 +V N002 1Meg
C2 N001 0 10p
R3 OUT N001 1.2Meg
.tran 3m startup
* 32.768KHz "Watch Crystal" Oscillator
.lib LTC.lib
.backanno
.end
